US06437184B1
First, 10.0 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 14.0 g of 1,3-dibromopropane, and 50 ml of N,N-dimethylformamide were placed in a reaction vessel, to which 5.3 g of potassium carbonate was added. After stirring at room temperature for 12 hours, the reaction mixture was filtered. The filtrate was poured into diluted hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed twice with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 6.1 g (yield, 43%) of 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 10.0 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | 1,3-dibromopropane | 14.0 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 6.1 g, 43% | BrCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H11BrCl4O2
